US07439249B2
[6-(tert-Butyl-dimethyl-silanyloxy)-1H-indol-2-yl]-methanol (2.0 g, 7.21 mmol) is dissolved in DMF (950 ml), cooled to 0° C. TEA (2.01 ml, 14.42 mmol) and MsCl (0.83 g, 7.21 mmol) are added. The mixture is stirred at room temperature for 1 hour. NaN3 (2.34 g, 34 mmol) is added. The reaction is stirred at room temperature for 1 hour and then 80° C. overnight. The mixture is cooled to room temperature, concentrated. The residue is purified by column chromatography (10% ethyl acetate in hexanes) to give 2-Azidomethyl-6-(tert-butyl-dimethyl-silanyloxy)-1H-indole (1.40 g, 64%). 1H NMR (400 MHz, DMSO-d6): δ 11.08 (s, 1H), 7.38 (d, 1H), 6.80 (s, 1H), 6.58 (m, 1H), 6.40 (s, 1H), 4.53 (d, 2H), 0.96 (s, 9H), 0.17 (s, 6H).

reactant | [6-(tert-Butyl-dimethyl-silanyloxy)-1H-indol-2-yl]-methanol | 7.21 mmol, 2.0 g | C(C)(C)(C)[Si](OC1=CC=C2C=C(NC2=C1)CO)(C)C | C15H23NO2Si
reactant | MsCl | 7.21 mmol, 0.83 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaN3 | 34 mmol, 2.34 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 950 ml | CN(C)C=O | C3H7NO
product | 2-Azidomethyl-6-(tert-butyl-dimethyl-silanyloxy)-1H-indole | 1.40 g, 64% | N(=[N+]=[N-])CC=1NC2=CC(=CC=C2C1)O[Si](C)(C)C(C)(C)C | C15H22N4OSi
